US05428119
A 1 weight percent solution of dioctyl aluminum chloride in hexane/heptane was prepared by mixing octyl aluminum dichloride (2.11 g, 0.01 mol), a 25.3 weight percent solution of trioctyl aluminum (14.5 g, 0.01 mol) and hexane (561 g) together under an atmosphere of argon.

reactant | octyl aluminum dichloride | 0.01 mol, 2.11 g | [Cl-].[Cl-].C(CCCCCCC)[Al+2]
reactant | trioctyl aluminum | 0.01 mol, 14.5 g | C(CCCCCCC)[Al](CCCCCCCC)CCCCCCCC
reactant | hexane | 561 g | CCCCCC | C6H14
solvent | hexane heptane | CCCCCC.CCCCCCC
product | dioctyl aluminum chloride | [Cl-].C(CCCCCCC)[Al+]CCCCCCCC | InChI=1S/2C8H17.Al.ClH/c2*1-3-5-7-8-6-4-2;;/h2*1,3-8H2,2H3;;1H/q;;+1;/p-1
